US07253198B2
To a solution of 3-methoxyphenylmagnesium bromide (1M in THF, 61 ml, 61 mmol, 1 equiv) at 0° C. was slowly added cyclohexanone (6 g, 61 mmol, 1 equiv) in Et2O (30 ml). The resulting mixture was stirred at room temperature for 4 h then poured in H2O at 0° C. The two layers were separated and the aqueous phase was extracted three times with Et2O. The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo to give 1-[3-(methyloxy)phenyl]cyclohexanol (D314) (12.4 g, 100%) as a pale yellow oil which was used in the next step without further purification.

reactant | 3-methoxyphenylmagnesium bromide | 61 mmol, 1M, 61 ml, 1 equiv | COC=1C=C(C=CC1)[Mg]Br
reactant | cyclohexanone | 61 mmol, 6 g, 1 equiv | C1(CCCCC1)=O | C6H10O
solvent | Et2O | 30 ml | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 1-[3-(methyloxy)phenyl]cyclohexanol | 12.4 g, 100% | COC=1C=C(C=CC1)C1(CCCCC1)O | C13H18O2
